US06194425B1
Using the general method of Example 55, 9-fluorenylmethyl chloroformate (0.085 g, 0.33 mmol) was reacted with 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine (0.105 g, 0.33 mmol) to provide 0.125 g of 9H-9-fluorenylmethyl N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate as a white powder. Analysis: Calculated for C32H34N6O2+¼H2O: % C, 71.29; % H, 6.45; % N, 15.59; Found: % C, 70.99; % H, 6.35; % N, 15.55.

reactant | 9-fluorenylmethyl chloroformate | 0.33 mmol, 0.085 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine | 0.33 mmol, 0.105 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCN)CCCC | C17H24N6
product | 9H-9-fluorenylmethyl N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate | 0.125 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCNC(OCC2C1=CC=CC=C1C=1C=CC=CC21)=O)CCCC | C32H34N6O2
